US09120805B2
825 mg (2.69 mmol) 3-(4-bromo-phenyl)-3-hydroxy-3,4-dihydro-2H-pyrrolo[1,2-a]pyrazin-1-one is slurried in 6.6 ml dichloromethane. Then 207 μl (2.69 mmol) trifluoroacetic acid is added. After 10 min stirring at room temperature, the reaction mixture is evaporated. The residue is triturated with saturated sodium carbonate solution. The solids are filtered off, washed with water and dried under vacuum to give 3-(4-bromo-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one as white powder; HPLC/MS 2.42 (B), [M+H] 289/291.

reactant | 3-(4-bromo-phenyl)-3-hydroxy-3,4-dihydro-2H-pyrrolo[1,2-a]pyrazin-1-one | 2.69 mmol, 825 mg | BrC1=CC=C(C=C1)C1(NC(C=2N(C1)C=CC2)=O)O | C13H11BrN2O2
reactant | trifluoroacetic acid | 2.69 mmol, 207 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 6.6 ml | ClCCl | CH2Cl2
product | 3-(4-bromo-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one | BrC1=CC=C(C=C1)C=1NC(C=2N(C1)C=CC2)=O | C13H9BrN2O
